US05807878
2,4,5-tribromo 1-[(2-(trimethylsilyl) ethoxy) methyl]1H-imidazole
3.04 g of tribromoimidazole is dissolved in 20 cm3 of anhydrous THF. 550 mg of NaH at 50% in oil is added in small portions. After 20 minutes at ambient temperature, 1.95 ml of 2-(trimethylsilyl) ethoxy methyl chloride is added. After 30 minutes at ambient temperature, the reaction medium is hydrolyzed with a saturated solution of NH4Cl, followed by extraction with AcOEt, drying and evaporating to dryness. Chromatography is carried out on silica eluting with cyclohexane/AcOEt (9-1) and 4.2 g of expected product (oil) is recovered.

reactant | tribromoimidazole | 3.04 g | BrC1=C(N=C(N1)Br)Br | C3HBr3N2
reactant | NaH | 550 mg | [H-].[Na+]
reactant | 2-(trimethylsilyl) ethoxy methyl chloride | 1.95 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
product | 2,4,5-tribromo 1-[(2-(trimethylsilyl) ethoxy) methyl]1H-imidazole | BrC=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C9H15Br3N2OSi
